US07067517B2
(3-Chloro-phenyl)-methyl-carbamic acid 4-trifluoromethyl-pyrimidin-2-yl ester
At 0° C. diphosgene (0.99 g, 5.00 mmol) was added to a stirred solution of 4-trifluoromethyl-2-hydroxypyrimidine (1.64 g, 10.0 mmol) in tetrahydrofuran (25 ml). The cooling bath was removed and stirring was continued at room temperature for 1 hour. (3-Chlorophenyl)-methylamine (0.35 g, 2.50 mmol) was added to one-fourth of the solution. After stirring overnight at room temperature the solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane (20:80)) followed by preparative HPLC, yielding the title compound (332 mg, 40%) as a colourless oil.

reactant | diphosgene | 5.00 mmol, 0.99 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 4-trifluoromethyl-2-hydroxypyrimidine | 10.0 mmol, 1.64 g | FC(C1=NC(=NC=C1)O)(F)F | C5H3F3N2O
reactant | (3-Chlorophenyl)-methylamine | 2.50 mmol, 0.35 g | ClC=1C=C(C=CC1)NC | C7H8ClN
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (3-Chloro-phenyl)-methyl-carbamic acid 4-trifluoromethyl-pyrimidin-2-yl ester | 332 mg, 40% | FC(C1=NC(=NC=C1)OC(N(C)C1=CC(=CC=C1)Cl)=O)(F)F | C13H9ClF3N3O2
